US04923869
HCl gas is passed for 2 hours into a boiling suspension of 1 g of 5-methyl-6-(3-amino-4-nicotinamidophenyl)-4,5-dihydropyridazin-3-one in 50 ml of isopropanol. After evaporation and the usual working up, 5-methyl-6-[2-(3-pyridyl)-5-benzimidazolyl]-4,5-dihydropyridazin-3-one, dihydrate, decomposition above 173°, is obtained.

reactant | HCl | Cl | ClH
reactant | 5-methyl-6-(3-amino-4-nicotinamidophenyl)-4,5-dihydropyridazin-3-one | 1 g | CC1CC(NN=C1C1=CC(=C(C=C1)NC(C1=CN=CC=C1)=O)N)=O | C17H17N5O2
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | 5-methyl-6-[2-(3-pyridyl)-5-benzimidazolyl]-4,5-dihydropyridazin-3-one, dihydrate | O.O.CC1CC(NN=C1C1=CC2=C(N=C(N2)C=2C=NC=CC2)C=C1)=O | InChI=1S/C17H15N5O.2H2O/c1-10-7-15(23)21-22-16(10)11-4-5-13-14(8-11)20-17(19-13)12-3-2-6-18-9-12;;/h2-6,8-10H,7H2,1H3,(H,19,20)(H,21,23);2*1H2
